US09260375B2
Under the atmosphere of argon, to a solution of diisopropylamine (572 mg, 5.65 mmol) in anhydrous tetrahydrofuran (7 mL) was added a 1.54 M n-butyl lithium-hexane solution (3.5 mL, 5.4 mmol) with stirring under ice cooling, and the mixture was stirred at 0° C. for 10 min and then at −78° C. for 5 min. To the mixture, a solution of ethyl 3-(4-t-butyldimethylsilyloxyphenyl)propionate (1.47 g, 4.78 mmol) in anhydrous tetrahydrofuran (7 mL) was added dropwise at the same temperature over 6 min, and the reaction mixture was further stirred for 20 min. The cold solution of the enolate thus prepared above was added dropwise via a cannula into a solution of ethyl 2-ketobutyrate (518 mg, 3.98 mmol) in anhydrous tetrahydrofuran (5 mL) having been cooled to −78° C. After stirring at −78° C. for 1 h, the reaction mixture was quenched and adjusted to pH 4 with acetic acid, and the temperature was raised to room temperature. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and water to separate the phases. The organic layer having been washed with brine was concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 10:1→5:1) to give diethyl 3-(4-t-butyldimethylsilyloxybenzyl)-2-ethyl-2-hydroxysuccinate as oil in amounts of 433 mg (low polar diastereomer, yield: 25%) and 290 mg (high polar diastereomer, yield: 17%), respectively.

reactant | diisopropylamine | 5.65 mmol, 572 mg | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 3-(4-t-butyldimethylsilyloxyphenyl)propionate | 4.78 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)OCC | C17H28O3Si
reactant | ethyl 2-ketobutyrate | 3.98 mmol, 518 mg | O=C(C(=O)OCC)CC | C6H10O3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | diethyl 3-(4-t-butyldimethylsilyloxybenzyl)-2-ethyl-2-hydroxysuccinate | yield: 25% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CC(C(C(=O)OCC)(O)CC)C(=O)OCC)C=C1 | C23H38O6Si
